US06632824B2
6-Methoxy-8-[2-(3-naphthalen-2-yl-8-azabicyclo[3.2.1]oct-2-en-8-yl)-ethoxy]-quinoline
8-(2-Chloroethyl)-3-(2-naphthyl)-8-azabicyclo[3.2.1]oct-2-ene (0.50 g, 1.70 mmol), 0.39 g (2.20 mmol) 6-methoxyquinolin-8-ol, 0.08 g (2.00 mmol) NaH (60% dispersion in mineral oil) and 3 mL DMSO are stirred at 50 C for 16 h. The reaction mixture is poured into 100 mL of H2O and extracted with 3×50 mL EtOAc. The combined organics are washed with 3×100 mL H2O, 1×100 mL brine, dried over MgSO4, filtered, and the volatiles are evaporated. The crude product is subjected to flash chromatography on SiO2 gel, eluting with EtOAc and then 40/1 EtOAc/2M NH3 in MeOH, to produce an off-white solid. This solid is treated with 0.06 g (0.67 mmol) (CO2H)2 in 4 mL of absolute EtOH to give 0.33 g (0.13 mmol, a 38% yield) of the oxalate salt of the title compound as a white solid. mp: 100-103° C.; MS (ES) m/z 437 (MH)+.

reactant | 8-(2-Chloroethyl)-3-(2-naphthyl)-8-azabicyclo[3.2.1]oct-2-ene | 1.70 mmol, 0.50 g | ClCCN1C2C=C(CC1CC2)C2=CC1=CC=CC=C1C=C2 | C19H20ClN
reactant | 6-methoxyquinolin-8-ol | 2.20 mmol, 0.39 g | COC=1C=C2C=CC=NC2=C(C1)O | C10H9NO2
reactant | NaH | 2.00 mmol, 0.08 g | [H-].[Na+]
reactant | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | EtOH | 4 mL | CCO | C2H6O
solvent | H2O | 100 mL | O | H2O
product | 6-Methoxy-8-[2-(3-naphthalen-2-yl-8-azabicyclo[3.2.1]oct-2-en-8-yl)-ethoxy]-quinoline | 38% yield | COC=1C=C2C=CC=NC2=C(C1)OCCN1C2C=C(CC1CC2)C2=CC1=CC=CC=C1C=C2 | C29H28N2O2
